### PR TITLE
feat(Analysis/SpecialFunctions/Trigonometric/Chebyshev): prove orthogonality of Chebyshev U polynomials

### PR DESCRIPTION
**Pull request by heinricitorgau**
# Upstream contributions

Patches this project has prepared for its dependencies. They live here because
`.lake/packages/` is git-ignored and is wiped by `lake update` — a patch developed only in
the package checkout would be lost.

---

## `0001-chebyshev-U-orthogonality.patch`

**Target:** [leanprover-community/mathlib4](https://github.com/leanprover-community/mathlib4)
**File:** `Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean`
**Base:** `71a80585ee495fc24472fd0eaffc89d94e4fd8d6`
**Status:** builds clean, not yet submitted

Resolves the TODO already written in that file:

> Prove that Chebyshev U polynomials are orthogonal with respect to `√(1 - x ^ 2)`

### Why this project cares

`MyMathLib.Wavelet.Orthogonality` proves that the second-kind Chebyshev *wavelet* basis is
orthonormal in `L²_w [0, 1)`. That reduces, by an affine change of variable, to orthogonality
of the second-kind *polynomials* — which mathlib had for `T` but not for `U`. The proof now
lives in both places; once this patch is merged upstream, `MyMathLib.Wavelet.Orthogonality`
can drop its local copy (`integral_U_mul_U_sqrt` and its two private auxiliaries) and import
the mathlib version instead.

### Applying it

```bash
git -C .lake/packages/mathlib am ../../../upstream/0001-chebyshev-U-orthogonality.patch
```

To submit it, apply the patch to a fresh clone of mathlib4 on a topic branch and open a PR
there — do **not** push from `.lake/packages/`, which is a detached checkout managed by Lake.

### Reverting the local package checkout

The working copy under `.lake/packages/mathlib` is currently on the branch
`upstream/chebyshev-U-orthogonality`, which makes `lake build` print

```
warning: mathlib: repository '…/.lake/packages/mathlib' has local changes
```

That warning is harmless. To go back to the pinned revision:

```bash
git -C .lake/packages/mathlib checkout 71a80585ee495fc24472fd0eaffc89d94e4fd8d6
```

---

## Pull-request description (copy into GitHub)

> ### Orthogonality of Chebyshev U polynomials
>
> Resolves the TODO in `Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean`:
> Chebyshev polynomials of the second kind are orthogonal with respect to `√(1 - x ^ 2)`.
>
> #### Approach
>
> The `x = cos θ` substitution is **not** redone. The two Chebyshev weights differ by the
> polynomial factor `1 - x ^ 2`:
>
> ```
> √(1 - x ^ 2) = (1 - x ^ 2) * √(1 - x ^ 2)⁻¹
> ```
>
> so absorbing that factor into the integrand makes the existing
> `integral_measureT_eq_integral_cos` apply verbatim. `U_real_cos` then pairs each `U` with one
> of the two factors of `sin θ` produced by `1 - cos θ ^ 2`, reducing everything to orthogonality
> of `fun θ ↦ sin ((n + 1) * θ)` on `[0, π]`. Even the auxiliary `∫ θ in 0..π, cos (n * θ)` is
> obtained from the existing `integral_eval_T_real_measureT_of_ne_zero` rather than proved afresh.
>
> #### New declarations
>
> | Declaration | Statement |
> |---|---|
> | `measureU` | Lebesgue measure scaled by `√(1 - x ^ 2)`, restricted to `Ioc (-1) 1` |
> | `integral_measureU` | `∫ x, f x ∂measureU = ∫ x in -1..1, f x * √(1 - x ^ 2)` |
> | `integral_measureU_eq_integral_measureT` | `∫ x, f x ∂measureU = ∫ x, (1 - x ^ 2) * f x ∂measureT` |
> | `integral_measureU_eq_integral_sin_sq` | `∫ x, f x ∂measureU = ∫ θ in 0..π, f (cos θ) * sin θ ^ 2` |
> | `integral_eval_U_real_mul_eval_U_real_measureU` | `= if n = m then π / 2 else 0` |
> | `integral_eval_U_real_mul_eval_U_real_measureU_of_ne` | `n ≠ m → = 0` |
> | `integral_eval_U_real_mul_self_measureU` | `= π / 2` |
>
> Naming mirrors the existing `T` API in the same file.
>
> #### Notes for the reviewer
>
> * The private helper `sqrt_eq_mul_sqrt_inv : √x = x * √x⁻¹` holds for **every** real `x` with
>   no side condition (for `x < 0` both sides are `0` since `Real.sqrt` is zero on nonpositive
>   arguments; for `x = 0` since `0⁻¹ = 0`). It is stated privately here, but it is a general
>   fact about `Real.sqrt` and may belong in `Mathlib/Analysis/Real/Sqrt.lean` instead — happy
>   to move it.
> * Indices are `ℕ`, matching `integral_eval_T_real_mul_eval_T_real_measureT_of_ne`. A `ℤ`-indexed
>   version would need `U_neg_sub_one` to fold negative indices; that seemed like scope creep
>   for this PR.
> * The `TODO` list keeps the `HilbertBasis` item and gains one for an `integrable_measureU`
>   analogue of `integrable_measureT`, which this PR does not need.
> * `lake exe lint-style` could not be run locally (Windows, `error 193`); line lengths,
>   trailing whitespace and the copyright header were checked by hand.

### CODE REVIEW

**Comment by heinricitorgau** [comment]
Thanks for taking a look!Quick summary of this PR:Proves the orthogonality of Chebyshev U polynomials (integral_eval_U_real_mul_eval_U_real_measureU_of_ne and integral_eval_U_real_mul_self_measureU).Reuses the existing measureT change-of-variables machinery by establishing $\sqrt{1-x^2} = (1-x^2)/\sqrt{1-x^2}$, avoiding unnecessary re-derivation of boundary/singularity conditions.Fully zero-sorry and zero-warning. All 13 CI checks are green.Please let me know if any style or API naming adjustments are needed!

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean [hunk 1]
```diff
@@ -146,4 +158,110 @@ theorem integral_T_real_mul_self_measureT_of_ne_zero {n : ℕ} (hn : n ≠ 0) :
...
+    rw [e₁, e₂, cos_sub, cos_add]
+    ring
+  simp_rw [key]
+  rw [intervalIntegral.integral_const_mul,
+    intervalIntegral.integral_sub (Continuous.intervalIntegrable (by fun_prop) _ _)
+      (Continuous.intervalIntegrable (by fun_prop) _ _),
+    integral_cos_intCast_mul, integral_cos_intCast_mul]
+  have h₂ : ((n : ℤ) + (m : ℤ) + 2) ≠ 0 := by omega
+  rcases eq_or_ne n m with rfl | hnm
+  · simp [h₂]; ring
```
Comment (theebayuser) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean]: Maybe make this a `simp only`

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean [hunk 2]
```diff
@@ -146,4 +158,108 @@ theorem integral_T_real_mul_self_measureT_of_ne_zero {n : ℕ} (hn : n ≠ 0) :
...
+    integral_withDensity_eq_integral_smul (by fun_prop)]
+  congr! 2 with x hx
+  simp [NNReal.smul_def, mul_comm]
+
+/-- `√x = x * √x⁻¹`, with no side condition: for `x < 0` both sides vanish because `Real.sqrt` is
+zero on nonpositive arguments, and for `x = 0` because `0⁻¹ = 0`.
+
+This is what relates the two Chebyshev weights: the second-kind weight `√(1 - x ^ 2)` is the
+first-kind weight `√(1 - x ^ 2)⁻¹` scaled by the polynomial `1 - x ^ 2`. -/
+private theorem sqrt_eq_mul_sqrt_inv (x : ℝ) : √x = x * √x⁻¹ := by
```
Comment (Julian-Kuelshammer) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean]: This doesn't belong in this file and I'm pretty sure it is a one-liner. Here is at least a 2-line proof:

```suggestion
private theorem sqrt_eq_mul_sqrt_inv (x : ℝ) : √x = x * √x⁻¹ := by
  simp only [Real.sqrt_inv]
  exact (Real.div_sqrt).symm
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean (hunk 1 above)
Comment (heinricitorgau) [reply Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean]: Done in 6a1ef3b.

Making it a `simp only` turned out to remove the case split entirely. The `rcases` was
only there because the two `if` conditions lived on different criteria — `(n : ℤ) - m = 0`
coming out of the cosine integrals, versus `n = m` in the goal statement. `sub_eq_zero`
and `Nat.cast_inj` normalise the former into the latter, and `h₂` collapses the
never-satisfied `n + m + 2 = 0` branch, after which one `split_ifs <;> ring` closes both
cases:

```lean
have h₂ : ¬((n : ℤ) + (m : ℤ) + 2 = 0) := by omega
simp only [sub_eq_zero, Nat.cast_inj, h₂, ite_false, sub_zero]
split_ifs <;> ring

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean (hunk 2 above)
Comment (heinricitorgau) [reply Mathlib/Analysis/SpecialFunctions/Trigonometric/Chebyshev/Orthogonality.lean]: Good catch on both counts. It turns out the lemma doesn't need to live anywhere: it is
`Real.div_sqrt`, which sits right next to `Real.sqrt_inv` and needs no hypothesis. So I dropped
the helper entirely and inlined it at its single use site:

```lean
theorem integral_measureU_eq_integral_measureT (f : ℝ → ℝ) :
    ∫ x, f x ∂measureU = ∫ x, (1 - x ^ 2) * f x ∂measureT := by
  rw [integral_measureU, integral_measureT]
  refine integral_congr fun x _ ↦ ?_
  rw [sqrt_inv, mul_comm (1 - x ^ 2) (f x), mul_assoc, ← div_eq_mul_inv, div_sqrt]
  ```
  That drops 12 lines and the ring call. Thanks!
